US04321384
4-(2,6-Dichlorophenyl)-1,4,5,6,7,8-hexahydro-2,7-dimethyl-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester
A mixture of 7.25 g. of 1-methyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine, 8.75 g. of 2,6-dichlorobenzaldehyde, 5.94 g. of methyl-3-aminocrotonate (97%) and 135 ml. of ethanol were heated at reflux for 3 hours. The mixture was filtered and the filtrate was evaporated to dryness. The residue was slurried with ethanol and the solid was separated by filtration. The solid, m.p. 258°-260° C. dec, was suspended in ethanol and saturated with hydrogen chloride. The solution was evaporated to dryness. The residue was triturated with a small volume of ethanol and filtered. The solid was recrystallized from 95% ethanol to obtain the title compound as the hydrochloride, m.p. 260°-262° C. dec.

reactant | 1-methyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine | CN1CC(C=C(C1)O)=O | C6H9NO2
reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | methyl-3-aminocrotonate | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(2,6-Dichlorophenyl)-1,4,5,6,7,8-hexahydro-2,7-dimethyl-5-oxo-1,7-naphthyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC=2CN(CC(C2C1C1=C(C=CC=C1Cl)Cl)=O)C)C | C18H18Cl2N2O3
